US09340538B2
1-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-4-hydroxypyrrolidine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.92 g, 3.81 mmol) was reacted with 4-hydroxypyrrolidine-2-carboxylic acid (0.5 g, 3.81 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (1.37 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 3.81 mmol, 1.92 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 4-hydroxypyrrolidine-2-carboxylic acid | 3.81 mmol, 0.5 g | OC1CC(NC1)C(=O)O | C5H9NO3
product | 1-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-4-hydroxypyrrolidine-2-carboxylic acid | 1.37 g, 65% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(CC(C1)O)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
